US07851493B2
To a suspension of 50 mg of 5-[3-fluoro-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazole-4-carbaldehyde in 2 mL of methanol was added 0.03 mL of pyrrolidine. The resulting solution was stirred at room temperature for 1.5 h then 13.5 mg of sodium cyanoborohydride was added. After stirring at room temperature for 4 h, the reaction mixture was concentrated under reduced pressure. Ethyl acetate/water was added to the residue. The organic layer was separated and the aqueous layer extracted three times with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (dichloromethane 80/methanol 20) to give 9 mg of 3-{2-fluoro-4-[4-pyrrolidin-1-ylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one as a beige solid.

reactant | 5-[3-fluoro-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazole-4-carbaldehyde | 50 mg | FC=1C=C(OCC2=C(N=C(S2)C2=CC=C(C=C2)C(F)(F)F)C=O)C=CC1C1=NOC(N1)=O | C20H11F4N3O4S
reactant | pyrrolidine | 0.03 mL | N1CCCC1 | C4H9N
reactant | sodium cyanoborohydride | 13.5 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 3-{2-fluoro-4-[4-pyrrolidin-1-ylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 9 mg | FC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCCC1)C1=NOC(N1)=O | C24H20F4N4O3S
